US06716851B2
4-(3-Methoxy-dibenzofuran-4-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 4-amino-3-methoxydibenzofuran (61 mg, 0.288 mmol) similar to Example 185 and was isolated as a solid (6 mg, 7%). 1H NMR (CDCl3): 9.73 (brs, 1H), 8.88 (d, J=7.8 Hz, 1H), 8.77 (brs, 1H), 7.89 (m, 1H), 7.19-7.59 (m, 6H), 7.02 (s, 1H), 4.05 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 4-amino-3-methoxydibenzofuran | 0.288 mmol, 61 mg | NC1=C(C=CC2=C1OC1=C2C=CC=C1)OC | C13H11NO2
product | 4-(3-Methoxy-dibenzofuran-4-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | COC=1C=CC2=C(OC3=C2C=CC=C3)C1NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C23H15F3N4O2
